US20010027196A1
4-[2-(2-Amino-6-furan-2-yl-5-iodo-pyrimidin-4-ylamino)-ethyl]-phenol
From 4-furan-2-yl-5-iodo-6-methanesulfinyl-pyrimidin-2-y-lamine and tyramine in dioxane. ES-MS m/e (%): 423 (M+H+, 100).

reactant | 4-furan-2-yl-5-iodo-6-methanesulfinyl-pyrimidin-2-y-lamine | O1C(=CC=C1)C1=NC(=NC(=C1I)S(=O)C)N | C9H8IN3O2S
reactant | tyramine | NCCC1=CC=C(C=C1)O | C8H11NO
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 4-[2-(2-Amino-6-furan-2-yl-5-iodo-pyrimidin-4-ylamino)-ethyl]-phenol | NC1=NC(=C(C(=N1)NCCC1=CC=C(C=C1)O)I)C=1OC=CC1 | C16H15IN4O2
